US06362211B1
e) 4-(2,3,3a,8-Tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole
A solution of 8a-(1H-imidazol-4-yl)-1,2,3,3a,8,8a-hexahydrocyclo-penta[a]inden-3-ol (0.5 g) in 20 ml of ethanol containing 5 ml of 20% hydrochloric acid was heated at reflux for 3 hours. The solution was allowed to cool to room temperature and 50 mg of 10% palladium on carbon catalyst was added. The reaction mixture was hydrogenated at 50-55° C. until no more hydrogen was consumed. The catalyst was filtered off and the solvent removed under reduced pressure. The residue was dissolved in water and the solution was basified with sodium hydroxide solution. The basic reaction solution was extracted with methylene chloride (3×100 ml), dried over sodium sulfate and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography using methylene chloride/methanol (97:3) as eluent. Recrystallization from ethyl acetate afforded 120 mg of product, m.p. 171-174° C.

reactant | 8a-(1H-imidazol-4-yl)-1,2,3,3a,8,8a-hexahydrocyclo-penta[a]inden-3-ol | 0.5 g | N1C=NC(=C1)C12C(C=3C=CC=CC3C1)C(CC2)O | C15H16N2O
reactant | hydrochloric acid | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 4-(2,3,3a,8-Tetrahydro-1H-cyclopenta[a]inden-8a-yl)-1H-imidazole | 120 mg | C1CCC2C1(CC=1C=CC=CC21)C=2N=CNC2 | C15H16N2
